US07553854B2
To the solution of 4-(2-((1R,2R)-2-aminocyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (9 mg, 22 μmole) and triethylamine (11 μL, 80 μmole) in 300 μL of DMF was added acetic anhydride (5 μL, 50 μmole). The reaction solution was stirred at room temperature for 1.5 hours. The crude reaction solution was purified on prep HPLC and evaporated in vacuo to give 4-(2-((1R,2R)-2-acetamidocyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (5.1 mg, 12 μmole) as white powder. ES/MS m/z 440.2 (MH+).

reactant | 4-(2-((1R,2R)-2-aminocyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 22 μmole, 9 mg | N[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C20H23N5O2S
reactant | triethylamine | 80 μmole, 11 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 50 μmole, 5 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | 4-(2-((1R,2R)-2-acetamidocyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 12 μmole, 5.1 mg | C(C)(=O)N[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C22H25N5O3S
